US05455273
u) trans-4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-hexanoyl-N-methylcyclohexylamine
from trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methylcyclohexylamine and hexanoic acid chloride. Melting point: 83°-85° C.

reactant | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC)CNC | C20H32N2O2
reactant | hexanoic acid chloride | C(CCCCC)(=O)Cl | C6H11ClO
product | trans-4-(4-tert.butoxycarbonyl-methylaminomethyl-phenyl)-N-hexanoyl-N-methylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(C)C(CCCCC)=O)CNC | C26H42N2O3
